US08404866B2
(±)-N-(2-Phthalimidoethylaminocarbonyl)-trans-3-(4-phenoxybenzenesulfonamido)-4-mercaptopyrrolidine. To a stirred solution of 1.5 M HCl in ethyl acetate (3 mL) was added (±)-N-Boc-trans-3-(4-phenoxybenzenesulfonamido)-4-tertbutylmercaptopyrrolidine (77.5 mg, 0.15 mmol) and stirring was continued at room temperature until no starting material was detected by TLC (50% ethyl acetate in hexane). The solvent was evaporated under reduced pressure and the residue was dissolved in CH2Cl2 (3 mL). The solution was cooled to −10° C. and diisopropylethylamine (63 μL, 0.36 mmol) and triphosgene (14.9 mg, 0.05 mmol) in CH2Cl2 (3 mL) were added. The mixture was stirred at −10° C. for 20 min, then diisopropylethylamine (63 μL, 0.36 mmol) and 2-phthalimidoethylamine hydrochloride (34 mg, 0.15 mmol) were added successively. The solution was warmed to room temperature and was stirred for 4 hr. The reaction mixture was extracted with water, dried over Na2SO4, and evaporated under reduced pressure. The residue was purified by flash chromatography (5% MeOH in ethyl acetate) to give (±)-N-(2-phthalimidoethylaminocarbonyl)-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine as a white solid (79 mg, 84%): mp 105-106° C.; 1H NMR (300 MHz, CDCl3) δ 7.92 (m, 2H), 7.85 (m, 2H), 7.72 (m, 2H), 7.42 (m, 2H), 7.24 (m, 1H), 7.10 (m, 4H), 5.62 (d, J=9, 1H), 4.62 (m, 1H), 3.98-3.70 (m, 3H), 3.62 (m, 1H), 3.48 (m, 3H), 3.24 (m, 2H) 3.14 (m, 1H), 1.32 (s, 9H);); MS (ESI) m/e 622.2 (M+); HRMS (ESI) calcd for C31H34N4O6S2Na+ 645.1812. found 645.1814.

reactant | (±)-N-(2-Phthalimidoethylaminocarbonyl)-trans-3-(4-phenoxybenzenesulfonamido)-4-mercaptopyrrolidine | C1(C=2C(C(N1CCNC(=O)N1C[C@H]([C@@H](C1)S)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=CC=CC2)=O | C27H26N4O6S2
reactant | HCl | 1.5 M | Cl | ClH
reactant | (±)-N-Boc-trans-3-(4-phenoxybenzenesulfonamido)-4-tertbutylmercaptopyrrolidine | 0.15 mmol, 77.5 mg | C(=O)(OC(C)(C)C)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C25H34N2O5S2
reactant | diisopropylethylamine | 0.36 mmol, 63 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.05 mmol, 14.9 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.36 mmol, 63 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-phthalimidoethylamine hydrochloride | 0.15 mmol, 34 mg | Cl.C1(C=2C(C(N1CCN)=O)=CC=CC2)=O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-(2-phthalimidoethylaminocarbonyl)-trans-3-(4-phenoxybenzenesulfonamido)-4-tert-butylmercaptopyrrolidine | 79 mg, 84% | C1(C=2C(C(N1CCNC(=O)N1C[C@H]([C@@H](C1)SC(C)(C)C)NS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=CC=CC2)=O | C31H34N4O6S2
